US07115609B2
1-[N-(Indole-6-carbonyl)-β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine
Using methods substantially equivalent to those described in Method D-1, the subtitled compound was prepared from 1-[β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine tetrahydrochloride and indole-6-carboxylic acid (59%).

reactant | 1-[β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine tetrahydrochloride | Cl.Cl.Cl.Cl.CN1CCC(CC1)C[C@@H](N)C(=O)N1CCN(CC1)C1CCN(CC1)C
reactant | indole-6-carboxylic acid | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
product | 1-[N-(Indole-6-carbonyl)-β-(1-methylpiperidin-4-yl)-D-alanyl]-4-(1-methylpiperidin-4-yl)piperazine | N1C=CC2=CC=C(C=C12)C(=O)N[C@H](CC1CCN(CC1)C)C(=O)N1CCN(CC1)C1CCN(CC1)C | C28H42N6O2
